****************************************
*													*
*			SERIES.CIR							*
*********10 Series X 1 Parallel*************
.include cell_2.lib
.option temp=30
**********First Column************
xcell_01_02 02 01 0201 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_02_03 03 02 0302 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_03_04 04 03 0403 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_04_05 05 04 0504 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_05_06 06 05 0605 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_06_07 07 06 0706 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_07_08 08 07 0807 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_08_09 09 08 0908 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_09_010 010 09 01009 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_010_00 0 010 00010 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000

*** 1000 No Shadding
*** 900 means a PV cell in shadding.

vbias 01 0 dc 0
virrad_01_02  0201  02 dc 900
virrad_02_03  0302  03 dc 900
virrad_03_04  0403  04 dc 900
virrad_04_05  0504  05 dc 900
virrad_05_06  0605  06 dc 900
virrad_06_07  0706  07 dc 900
virrad_07_08  0807  08 dc 900
virrad_08_09  0908  09 dc 900
virrad_09_010 01009 010 dc 900
virrad_010_00 00010 0 dc 1000

.plot dc i(vbias)

.dc vbias 0 10.5 0.01
.probe
.end
